US04820834
3-((((4-Chlorophenyl)amino)carbonyl)amino)-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-1-acetic acid ethyl ester
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-1-ethoxycarbonylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 4-chlorophenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 228°-229° C.

reactant | 3(R,S)-amino-1,3-dihydro-1-ethoxycarbonylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(=O)OCC)=O | C19H19N3O3
reactant | 4-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-((((4-Chlorophenyl)amino)carbonyl)amino)-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-1-acetic acid ethyl ester | C(C)OC(CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC2=CC=C(C=C2)Cl)=O)=O | C26H23ClN4O4
